US07816522B2
(37b) 2-{3-[(4-cyano-3-fluorophenylamino)-(3,4-dimethoxyphenyl)methyl]-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl}benzoic acid
After adding 55 mg of 2-hydrazinobenzoic acid hydrochloride and 101 μl of triethylamine to a solution of 120 mg of [2-(4-cyano-3-fluorophenylimino)-2-(3,4-dimethoxyphenyl)-1-methylsulfanylethylidene]carbamic acid methyl ester in 3 ml of DMF, the mixture was stirred at 85° C. for 16 hours under a nitrogen atmosphere. The reaction mixture was concentrated, and the residue was dissolved in 3 ml of a methanol:THF=1:1 mixed solvent. After adding 58 μl of acetic acid and 91 mg of sodium cyanotrihydroborate to the solution, the mixture was stirred at room temperature for 15 hours. Ethyl acetate was then added to the reaction mixture. The organic layer was washed with dilute hydrochloric acid and saturated brine and then dried over anhydrous magnesium sulfate. The desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by NAM silica gel column chromatography (methanol-ethyl acetate) to give the title compound (100 mg) as a light yellow solid.

reactant | 2-hydrazinobenzoic acid hydrochloride | 55 mg | Cl.N(N)C1=C(C(=O)O)C=CC=C1
reactant | triethylamine | 101 μl | C(C)N(CC)CC | C6H15N
reactant | [2-(4-cyano-3-fluorophenylimino)-2-(3,4-dimethoxyphenyl)-1-methylsulfanylethylidene]carbamic acid methyl ester | 120 mg | COC(N=C(C(C1=CC(=C(C=C1)OC)OC)=NC1=CC(=C(C=C1)C#N)F)SC)=O | C20H18FN3O4S
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-{3-[(4-cyano-3-fluorophenylamino)-(3,4-dimethoxyphenyl)methyl]-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl}benzoic acid | 100 mg | C(#N)C1=C(C=C(C=C1)NC(C1=NN(C(N1)=O)C1=C(C(=O)O)C=CC=C1)C1=CC(=C(C=C1)OC)OC)F | C25H20FN5O5
